### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Goursat): Goursat's lemma on submodules of products

### PR DESCRIPTION
**Pull request by loefflerd**
This proves Goursat's lemma for modules, characterising submodules of `A x B` as graphs of isomorphisms between subquotients of `A` and `B`.

---

- [x] depends on: #19686

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by loefflerd** [comment]
I am flagging this as WIP since Yaël has independently implemented Goursat for groups, and I will add the parts of this PR not covered by his approach to his PR instead (and close this PR once that process is complete)

File: Mathlib/GroupTheory/Goursat.lean
Comment (YaelDillies) [inline Mathlib/GroupTheory/Goursat.lean:1]: Thank you for spotting all of these mistakes. Maybe, make this a separate PR for clarity?

File: Mathlib/Algebra/Group/Graph.lean
Comment (YaelDillies) [inline Mathlib/Algebra/Group/Graph.lean:1]: And this one too (can be the same PR as for the subgroup-Goursat nits

**Review by YaelDillies — APPROVED** [review]

**Comment by loefflerd** [comment]
I split off the fixes to existing code into #19686.

File: Mathlib/LinearAlgebra/Prod.lean [hunk 1]
```diff
@@ -76,6 +76,10 @@ theorem fst_apply (x : M × M₂) : fst R M M₂ x = x.1 :=
 theorem snd_apply (x : M × M₂) : snd R M M₂ x = x.2 :=
   rfl
 
+lemma coe_fst : ⇑(fst R M M₂) = Prod.fst := rfl
+
+lemma coe_snd : ⇑(snd R M M₂) = Prod.snd := rfl
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Prod.lean:81]:
```suggestion
@[simp, norm_cast] lemma coe_fst : ⇑(fst R M M₂) = Prod.fst := rfl

@[simp, norm_cast] lemma coe_snd : ⇑(snd R M M₂) = Prod.snd := rfl
```

File: Mathlib/LinearAlgebra/Goursat.lean [hunk 2]
```diff
@@ -0,0 +1,134 @@
...
+
+`G'` and `H'` can be explicitly constructed as `Submodule.goursatFst I` and `Submodule.goursatSnd I`
+respectively.
+-/
+
+open Function Set LinearMap
+
+namespace Submodule
+variable {R G H : Type*} [Ring R] [AddCommGroup G] [Module R G] [AddCommGroup H] [Module R H]
+  {I : Submodule R (G × H)}
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Goursat.lean:25]: Can `G` and `H` be renamed to `M` and `N` everywhere since they are modules?

File: Mathlib/LinearAlgebra/Goursat.lean [hunk 3]
```diff
@@ -0,0 +1,134 @@
...
+
+lemma goursatFst_toAddSubgroup :
+    (goursatFst I).toAddSubgroup = I.toAddSubgroup.goursatFst := by
+  ext x
+  simp [mem_toAddSubgroup, goursatFst, AddSubgroup.mem_goursatFst]
+
+lemma goursatSnd_toAddSubgroup :
+    (goursatSnd I).toAddSubgroup = I.toAddSubgroup.goursatSnd := by
+  ext x
+  simp [mem_toAddSubgroup, goursatSnd, AddSubgroup.mem_goursatSnd]
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Goursat.lean:52]: Can't `simps` generate these?

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/LinearAlgebra/Goursat.lean [hunk 4]
```diff
@@ -0,0 +1,134 @@
+/-
+Copyright (c) 2024 David Loeffler. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: David Loeffler
+-/
+import Mathlib.LinearAlgebra.Prod
+import Mathlib.LinearAlgebra.Quotient.Basic
+import Mathlib.GroupTheory.Goursat
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/Goursat.lean:8]:
```suggestion
import Mathlib.GroupTheory.Goursat
import Mathlib.LinearAlgebra.Prod
import Mathlib.LinearAlgebra.Quotient.Basic
```
for the alphabet

File: Mathlib/LinearAlgebra/Goursat.lean (hunk 2 above)
Comment (loefflerd) [reply Mathlib/LinearAlgebra/Goursat.lean]: Done.

File: Mathlib/LinearAlgebra/Goursat.lean (hunk 3 above)
Comment (loefflerd) [reply Mathlib/LinearAlgebra/Goursat.lean]: I don't think so. The definition of `Submodule.goursatFst` isn't "`AddSubgroup.goursatFst` together with a proof that it's a submodule", it's a new construction a priori independent of `AddSubgroup.goursatFst` and some nonobvious work has to occur to show that the two are actually compatible. So AFAIK this is beyond what `@[simps]` is capable of generating.

Comment (loefflerd) [reply Mathlib/LinearAlgebra/Goursat.lean]: I am not aware of a way that `@[simps]` can be used to generate these lemmas. If you know of a way of doing so, I would be happy to hear about it.

Comment (YaelDillies) [reply Mathlib/LinearAlgebra/Goursat.lean]: I mean the point of my question was very concretely for you to tag the definition with `simps?` and report on whether it generates the required lemma. If it doesn't then no further action is required

Comment (loefflerd) [reply Mathlib/LinearAlgebra/Goursat.lean]: No; that was the first thing I tried. `@[simps]` prints a message "not a constructor application, please use `@[simps!]` instead", and `@[simps!]` generates an entirely useless lemma showing that `↑L.goursatFst = (fun a ↦ (↑a).1) '' ↑(ker (LinearMap.snd R M N ∘ₗ L.subtype)) `.

Comment (loefflerd) [reply Mathlib/LinearAlgebra/Goursat.lean]: I believe there is some syntax for telling `simps` more explicitly what to generate, but I don't know if it is possible to use this to auto-generate `goursatFst_toAddSubgroup`.

Comment (YaelDillies) [reply Mathlib/LinearAlgebra/Goursat.lean]: The syntax would be `simps! toAddSubgroup` but I agree it's unlikely to generate the right lemma

Comment (loefflerd) [reply Mathlib/LinearAlgebra/Goursat.lean]: Indeed, it doesn't.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
